US07608627B2
To an ice-cold solution of 4-(hydroxymethyl)imidazole hydrochloride (2.0 g, 15 mmol), N-hydroxyphthalimide (2.4 g, 15 mmol) and triphenylphosphine (4.0 g, 15 mmol) in THF (65 mL) was added a solution of diethyl azodicarboxylate (2.6 mL, 16 mmol) in THF (10 mL) dropwise. The stirred reaction mixture was allowed to warm to ambient temperature. After 18 h, the resultant precipitate was collected by vacuum filtration. The solid was partitioned between EtOAc (75 ml) and saturated NaHCO3 (75 mL). The aqueous layer was separated and extracted again with EtOAc (75 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (silica gel, CH2Cl2 to 90:10 CH2Cl2/MeOH) gave 2-(1H-imidazol-4-ylmethoxy)-1,3-dihydro-2H-isoindole-1,3-dione (800 mg, 22%) as a yellow oil: 1H NMR (300 MHz, DMSO-d6) δ5.03 (2H, s), 7.30 (1H, s), 7.55 (1H, s), 7.81-7.86 (4H, m), 12.08 (1H, br s).

reactant | 4-(hydroxymethyl)imidazole hydrochloride | 15 mmol, 2.0 g | Cl.OCC=1N=CNC1
reactant | N-hydroxyphthalimide | 15 mmol, 2.4 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 15 mmol, 4.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 16 mmol, 2.6 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(1H-imidazol-4-ylmethoxy)-1,3-dihydro-2H-isoindole-1,3-dione | 800 mg, 22% | N1C=NC(=C1)CON1C(C2=CC=CC=C2C1=O)=O | C12H9N3O3
